US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-pyrazin-2-ylbenzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.073 mL, 0.55 mmol) was added to a solution of 3-[4-(azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (260 mg, 0.5 mmol) in DCM (10 mL) and stirred at RT for 1 hour. 2-Amino-5-methylpyrazine (95 mg, 1 mmol) and pyridine (0.081 mL, 1.0 mmol) were added and the reaction stirred for a further 30 mins. The solvent was removed in vacuo. Water (10 mL) was added and the mixture extracted with ethyl acetate (2×10 mL). The extracts were combined and washed with 1N citric acid, water (10 mL) and brine (10 mL), dried (MgSO4), filtered, and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (37 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.55 mmol, 0.073 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 0.5 mmol, 260 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)Cl | C26H34ClNO6Si
reactant | 2-Amino-5-methylpyrazine | 1 mmol, 95 mg | NC1=NC=C(N=C1)C | C5H7N3
reactant | pyridine | 1.0 mmol, 0.081 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-pyrazin-2-ylbenzamide | 37 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC=CN=C3)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)Cl | C30H37ClN4O5Si
